US05552409
A mixture of 2-bromo-p-chloroacetophenone (9.16 g), methoxythiocarbonylhydrazine (13.0 g) and acetonitrile (75 ml) was refluxed overnight and then cooled and filtered. The light yellow solid was washed with hexane and dried yielding 5-(4-chlorophenyl)-3H,6H-1,3,4-thiadiazin-2-one (4.3 g).

reactant | 2-bromo-p-chloroacetophenone | 9.16 g | BrCC(=O)C1=CC=C(C=C1)Cl | C8H6BrClO
reactant | methoxythiocarbonylhydrazine | 13.0 g | COC(=S)NN | C2H6N2OS
solvent | acetonitrile | 75 ml | C(C)#N | C2H3N
product | 5-(4-chlorophenyl)-3H,6H-1,3,4-thiadiazin-2-one | 4.3 g | ClC1=CC=C(C=C1)C1=NNC(SC1)=O | C9H7ClN2OS
